US06166015
(S)-1-(tert-Butoxycarbonylamino)-3-methanesulfonyloxypyrrolidine (39 g, 0.15 mol) was dissolved in acetonitrile (250 mL) and tetra-n-butylammonium cyanide (75 g, 0.28 mol, 1.9 equiv.) was added. The resulting mixture was heated at 65° C. for 6 h and then cooled to room temperature. Saturated NaHCO3 (500 mL) was added and the reaction mixture extracted with toluene (750 mL and 300 mL). The combined organic layers were washed with water and concentrated under reduced pressure to give a brown oil. This crude material was purified by flash chromatography with 20% ethyl acetate in hexane to give (S)-1-(tert-butoxycarbonylamino)-3-cyanopyrrolidine as a yellow oil (13.5 g).

reactant | (S)-1-(tert-Butoxycarbonylamino)-3-methanesulfonyloxypyrrolidine | 0.15 mol, 39 g | C(C)(C)(C)OC(=O)NN1C[C@H](CC1)OS(=O)(=O)C | C10H20N2O5S
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
reactant | acetonitrile | 250 mL | C(C)#N | C2H3N
catalyst | tetra-n-butylammonium cyanide | 0.28 mol, 75 g, 1.9 equiv. | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | (S)-1-(tert-butoxycarbonylamino)-3-cyanopyrrolidine | 13.5 g | C(C)(C)(C)OC(=O)NN1C[C@H](CC1)C#N | C10H17N3O2
